US08669234B2
To a solution of methylenecyclobutane (2 mL, 21.6 mmol) in ethyl acetate (125 mL) was added (Z)-ethyl 2-chloro-2-(hydroxyimino)acetate (6.55 g, 43.2 mmol) and solid sodium bicarbonate (16.3 g, 194 mmol). The reaction mixture was sealed and stirred at room temperature for 6 hours. More (Z)-ethyl 2-chloro-2-(hydroxyimino)acetate (4 g, 26.4 mmol) and sodium bicarbonate (8 g, 95.2 mmol) were added and the reaction was stirred at room temperature for an additional 12 hours. The reaction was diluted with ethyl acetate and washed successively with water and brine, dried (MgSO4) and concentrated to yield crude 5-oxa-6-aza-spiro[3.4]oct-6-ene-7-carboxylic acid ethyl ester, contaminated with (Z)-Ethyl 2-chloro-2-(hydroxyimino)acetate and related compounds.

reactant | methylenecyclobutane | 21.6 mmol, 2 mL | C=C1CCC1 | C5H8
reactant | (Z)-ethyl 2-chloro-2-(hydroxyimino)acetate | 43.2 mmol, 6.55 g | Cl\C(\C(=O)OCC)=N/O | C4H6ClNO3
reactant | sodium bicarbonate | 194 mmol, 16.3 g | C([O-])(O)=O.[Na+]
reactant | (Z)-ethyl 2-chloro-2-(hydroxyimino)acetate | 26.4 mmol, 4 g | Cl\C(\C(=O)OCC)=N/O | C4H6ClNO3
reactant | sodium bicarbonate | 95.2 mmol, 8 g | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 125 mL | C(C)(=O)OCC | C4H8O2
product | 5-oxa-6-aza-spiro[3.4]oct-6-ene-7-carboxylic acid ethyl ester | C(C)OC(=O)C1=NOC2(CCC2)C1 | C9H13NO3
